US07144885B2
To a solution of dimethylthiocarbamic acid S-(3-cyano-5,6,7,8-tetrahydronaphthalen-2-yl) ester (1.00 g, 3.84 mmol) in anhydrous N,N-dimethylformamide (10 mL) under argon was added dropwise 25% sodium methoxide in methanol (2.6 mL, 11.5 mmol, 3.0 eq) at 0° C. The resultant yellow reaction mixture was stirred at room temperature for 1 h. The reaction mixture was poured into cold 2N HCl (100 mL) and then extracted with ethyl acetate. The combined organic layers were dried over magnesium sulfate and evaporated at reduced pressure to give 700 mg (96%) of crude 3-mercapto-5,6,7,8-tetrahydronaphthalene-2-carbonitrile.

reactant | dimethylthiocarbamic acid S-(3-cyano-5,6,7,8-tetrahydronaphthalen-2-yl) ester | 3.84 mmol, 1.00 g | C(#N)C=1C(=CC=2CCCCC2C1)SC(N(C)C)=O | C14H16N2OS
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 11.5 mmol, 2.6 mL, 3.0 eq | CO | CH4O
reactant | HCl | 2N, 100 mL | Cl | ClH
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-mercapto-5,6,7,8-tetrahydronaphthalene-2-carbonitrile | 700 mg, 96% | SC=1C(=CC=2CCCCC2C1)C#N | C11H11NS
